US07989444B2
10-bromo-2-ethyl-7-(4-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}butyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride
The title compound was prepared in analogy to General Procedure 1 from 10-bromo-2-ethyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine (105 mg) and 5-{5-[(4-chlorobutyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline (177 mg) and was obtained as a colourless slightly hygroscopic solid (115 mg).

reactant | 10-bromo-2-ethyl-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine | 105 mg | BrC1=C2C(=CC=3CCNCCC31)N=C(O2)CC | C13H15BrN2O
reactant | 5-{5-[(4-chlorobutyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline | 177 mg | ClCCCCSC=1N(C(=NN1)C1=C2C=CC(=NC2=CC=C1)C)C | C17H19ClN4S
product | 10-bromo-2-ethyl-7-(4-{[4-methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}butyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride | Cl.BrC1=C2C(=CC=3CCN(CCC31)CCCCSC3=NN=C(N3C)C3=C1C=CC(=NC1=CC=C3)C)N=C(O2)CC | InChI=1S/C30H33BrN6OS.ClH/c1-4-26-33-25-18-20-12-15-37(16-13-21(20)27(31)28(25)38-26)14-5-6-17-39-30-35-34-29(36(30)3)23-8-7-9-24-22(23)11-10-19(2)32-24;/h7-11,18H,4-6,12-17H2,1-3H3;1H
